### PR TITLE
[Merged by Bors] - feat(Analysis/Convex/Between): interior of a 1-simplex

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas relating the `interior` or `closedInterior` of a 1-simplex to betweenness.

---

- [ ] depends on: #29415
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Between.lean [hunk 1]
```diff
@@ -599,6 +599,103 @@ theorem Sbtw.affineCombination_of_mem_affineSpan_pair [NoZeroDivisors R] [NoZero
...
+  rw [h', (s.face (Finset.card_pair h)).closedInterior_eq_affineSegment]
+  convert rfl using 2 <;> rw [face_points] <;> congr
+  · convert (Finset.orderEmbOfFin_zero _ _).symm
+    · rw [eq_comm]
+      · convert Finset.min'_pair i j
+      · omega
+  · convert (Finset.orderEmbOfFin_last _ _).symm
+    · rw [eq_comm]
+      · convert Finset.max'_pair i j
+      · omega
```
Comment (jsm28) [inline Mathlib/Analysis/Convex/Between.lean]: I don't understand at all why the focussing dots for extra goals are needed after `rw [eq_comm]` rather than after `convert (Finset.orderEmbOfFin_zero _ _).symm` and similar. If `rw [eq_comm]` is replaced by `sorry`, you see the goal solved by `omega` is introduced by `convert`, but the expected indentation

```lean
  · convert (Finset.orderEmbOfFin_zero _ _).symm
    · rw [eq_comm]
      convert Finset.min'_pair i j
    · omega
```

doesn't work for me even though the version with `sorry`

```lean
  · convert (Finset.orderEmbOfFin_zero _ _).symm
    · sorry
    · omega
```

does work.

Comment (eric-wieser) [reply Mathlib/Analysis/Convex/Between.lean]: This is a mathlib bug:
```lean-4
example : Fin.instLinearOrder.toDecidableEq = instDecidableEqFin n := rfl -- fails

set_option smartUnfolding false in
example : Fin.instLinearOrder.toDecidableEq = instDecidableEqFin n := rfl -- works
```

Comment (jsm28) [reply Mathlib/Analysis/Convex/Between.lean]: Needing `convert` rather than `rw` or `exact` may be a mathlib bug. The way that replacing `sorry` by a proof changes the required indentation looks weirder than that to me. (It turns out that if I use `convert (Finset.min'_pair i j).symm` instead of using `rw [eq_comm]`, the indentation issue goes away again.)

Comment (jsm28) [reply Mathlib/Analysis/Convex/Between.lean]: I've now replaced these proofs by simpler versions that avoid the indentation issue, but I still don't understand what was going on there.

Comment (jsm28) [reply Mathlib/Analysis/Convex/Between.lean]: Now the defeq issue is hopefully resolved I've removed the dependency on #29422 (this still depends on #29415).

File: Mathlib/Analysis/Convex/Between.lean [hunk 2]
```diff
@@ -599,6 +599,99 @@ theorem Sbtw.affineCombination_of_mem_affineSpan_pair [NoZeroDivisors R] [NoZero
...
+      (Finset.mem_univ _), affineCombination_mem_interior_iff
+        (Finset.sum_affineCombinationLineMapWeights _ (Finset.mem_univ _) (Finset.mem_univ _) _)]
+    intro i
+    fin_cases i <;> simp <;> grind
+
+lemma mem_interior_face_iff_sbtw [Nontrivial R] [NoZeroSMulDivisors R V] {n : ℕ}
+    (s : Simplex R P n) {p : P} {i j : Fin (n + 1)} (h : i ≠ j) :
+    p ∈ (s.face (Finset.card_pair h)).interior ↔ Sbtw R (s.points i) p (s.points j) := by
+  have h' : Sbtw R (s.points i) p (s.points j) ↔
+      Sbtw R (s.points (min i j)) p (s.points (max i j )) := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Between.lean]:
```suggestion
      Sbtw R (s.points (min i j)) p (s.points (max i j)) := by
```

File: Mathlib/Analysis/Convex/Between.lean [hunk 3]
```diff
@@ -599,6 +599,99 @@ theorem Sbtw.affineCombination_of_mem_affineSpan_pair [NoZeroDivisors R] [NoZero
...
+    · nth_rw 2 [sbtw_comm]
+      simp [max_eq_left hji.le, min_eq_right hji.le]
+  rw [h', mem_interior_iff_sbtw]
+  convert Iff.rfl using 2 <;> rw [face_points] <;> congr
+  · convert (Finset.orderEmbOfFin_zero _ _).symm
+    · exact (Finset.min'_pair i j).symm
+    · omega
+  · convert (Finset.orderEmbOfFin_last _ _).symm
+    · exact (Finset.max'_pair i j).symm
+    · omega
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Between.lean]: #29855 helps a little here I think

File: Mathlib/Analysis/Convex/Between.lean [hunk 4]
```diff
@@ -599,6 +599,99 @@ theorem Sbtw.affineCombination_of_mem_affineSpan_pair [NoZeroDivisors R] [NoZero
...
+
+lemma mem_closedInterior_face_iff_wbtw {n : ℕ} (s : Simplex R P n) {p : P} {i j : Fin (n + 1)}
+    (h : i ≠ j) :
+    p ∈ (s.face (Finset.card_pair h)).closedInterior ↔ Wbtw R (s.points i) p (s.points j) := by
+  rw [s.closedInterior_face_eq_affineSegment h, Wbtw]
+
+lemma mem_interior_iff_sbtw [Nontrivial R] [NoZeroSMulDivisors R V] {s : Simplex R P 1} {p : P} :
+    p ∈ s.interior ↔ Sbtw R (s.points 0) p (s.points 1) := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Between.lean]: Could you prove `s.interior = AffineMap.lineMap (s.points 0) (s.points 1) '' Set.Ioo 0 1` first?

File: Mathlib/Analysis/Convex/Between.lean [hunk 5]
```diff
@@ -599,6 +599,99 @@ theorem Sbtw.affineCombination_of_mem_affineSpan_pair [NoZeroDivisors R] [NoZero
...
+      (Finset.mem_univ _)]
+    exact Set.mem_image_of_mem _ (h01 _)
+  · rintro ⟨r, ⟨h0, h1⟩, rfl⟩
+    rw [← Finset.univ.affineCombination_affineCombinationLineMapWeights _ (Finset.mem_univ _)
+      (Finset.mem_univ _), affineCombination_mem_closedInterior_iff
+        (Finset.sum_affineCombinationLineMapWeights _ (Finset.mem_univ _) (Finset.mem_univ _) _)]
+    intro i
+    fin_cases i <;> simp [h0, h1]
+
+lemma mem_closedInterior_iff_wbtw {s : Simplex R P 1} {p : P} :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/Between.lean:628]: Perhap worth a docstring that says this is for the degenerate case of a two-point simplex (since the vscode autocomplete hovers don't show implicit arguments like the `1` here. Same throughout.

File: Mathlib/Analysis/Convex/Between.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Convex/Between.lean]: (but I'm fine with this PR being merged first if you address the point below)

File: Mathlib/Analysis/Convex/Between.lean (hunk 4 above)
Comment (jsm28) [reply Mathlib/Analysis/Convex/Between.lean]: Added.

File: Mathlib/Analysis/Convex/Between.lean (hunk 5 above)
Comment (jsm28) [reply Mathlib/Analysis/Convex/Between.lean:628]: Added docstrings explicitly referring to 1-simplices.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
